US07601850B2
E. 1-{4-[1-ethyl-1-(4-methyl-thiophen-2-yl)-propyl]-2-methyl-phenyl}-4,4-dimethyl-pentan-3-ol
Using a procedure analogous to Example 134B, 1-{4-[1-ethyl-1-(4-methyl-thiophen-2-yl)-propyl]-2-methyl-phenyl}-4,4-dimethyl-pentan-3-one and NaBH4 give the title compound (quant).

reactant | 1-{4-[1-ethyl-1-(4-methyl-thiophen-2-yl)-propyl]-2-methyl-phenyl}-4,4-dimethyl-pentan-3-one | C(C)C(CC)(C=1SC=C(C1)C)C1=CC(=C(C=C1)CCC(C(C)(C)C)=O)C | C24H34OS
reactant | NaBH4 | [BH4-].[Na+]
product | 1-{4-[1-ethyl-1-(4-methyl-thiophen-2-yl)-propyl]-2-methyl-phenyl}-4,4-dimethyl-pentan-3-ol | C(C)C(CC)(C=1SC=C(C1)C)C1=CC(=C(C=C1)CCC(C(C)(C)C)O)C | C24H36OS
